US04120873
Ethyl 5-Hydroxy-4-Methyl-7-(3-Methyl-2-Octyl)-Coumarin-3-Propionate
A mixture of 262 g. (1.109 mole) of 5-(3-methyl-2-octyl)resorcinol, 283 g. (1.23 mole) of diethyl α-acetylglutarate, and 170 g. (1.11 mole) of phosphorus oxychloride protected from atmospheric moisture is stirred at room temperature for 12 days. The mixture is taken up in benzene-ether and the solution is washed several times with water, aqueous sodium bicarbonate, water and dried over anhydrous magnesium sulfate. After removal of the solvent, 441 g. of an oil is obtained, which solidifies on standing.

reactant | 5-(3-methyl-2-octyl)resorcinol | 1.109 mole | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
reactant | diethyl α-acetylglutarate | 1.23 mole | C(C)(=O)C(C(=O)OCC)CCC(=O)OCC | C11H18O5
reactant | phosphorus oxychloride | 1.11 mole | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 5-Hydroxy-4-Methyl-7-(3-Methyl-2-Octyl)-Coumarin-3-Propionate | OC1=C2C(=C(C(OC2=CC(=C1)C(C)C(CCCCC)C)=O)CCC(=O)OCC)C | C24H34O5
